US07989457B2
Step A. 1-[4-(2,3,5,6-Tetramethyl-benzyloxy)-phenyl]-propan-1-one
NaOH (1.6 g, 40 mmol) is added to the solution of 1-(4-hydroxy-phenyl)-propan-1-one (3.0 g, 20 mmol) in EtOH (50 mL) and water (30 mL), followed by the addition of 3-Chloromethyl-1,2,4,5-tetramethyl-benzene (5.5 g, 30 mol). The resulting mixture is heated to turn into clear solution and stirred at room temperature overnight. The reaction is quenched by 1N HCl and extracted with ethyl acetate (3×100 mL). The combined organic layers are washed with water, brine, dried (MgSO4), concentrated and chromatographed to afford the titled compound as a white solid (4.0 g).

reactant | NaOH | 40 mmol, 1.6 g | [OH-].[Na+]
reactant | 1-(4-hydroxy-phenyl)-propan-1-one | 20 mmol, 3.0 g | OC1=CC=C(C=C1)C(CC)=O | C9H10O2
reactant | 3-Chloromethyl-1,2,4,5-tetramethyl-benzene | 30 mol, 5.5 g | ClCC=1C(=C(C=C(C1C)C)C)C | C11H15Cl
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | water | 30 mL | O | H2O
product | 1-[4-(2,3,5,6-Tetramethyl-benzyloxy)-phenyl]-propan-1-one | 4.0 g | CC1=C(COC2=CC=C(C=C2)C(CC)=O)C(=C(C=C1C)C)C | C20H24O2
